US08536176B2
(1) 3-Chloro-6-(4-methanesulfonylphenoxymethyl)-pyridazine
To a solution of potassium 4-(methanesulfonyl)phenolate (150 mg, 0.713 mmol) in N,N-dimethylformamide (2 mL) was added a solution of 3-bromomethyl-6-chloropyridazine (221 mg, 1.07 mmol) in N,N-dimethylformamide (2 mL). The mixture was stirred at room temperature for 2.5 hours, poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1→2/3) to give the title compound as a white crystal (148 mg, yield 69%).

reactant | potassium 4-(methanesulfonyl)phenolate | 0.713 mmol, 150 mg | CS(=O)(=O)C1=CC=C(C=C1)[O-].[K+]
reactant | 3-bromomethyl-6-chloropyridazine | 1.07 mmol, 221 mg | BrCC=1N=NC(=CC1)Cl | C5H4BrClN2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-Chloro-6-(4-methanesulfonylphenoxymethyl)-pyridazine | 148 mg, yield 69% | ClC=1N=NC(=CC1)COC1=CC=C(C=C1)S(=O)(=O)C | C12H11ClN2O3S
